US04021479
4-(2',3'-Dichloro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(2',3'-dichloro-4-biphenylyl)-4-oxo-butyric acid. Yield: 75% of theory, m.p. 134°-135° C. (decomp.). Melting point of the cyclohexylamine salt: 158° C. (decomp.).

reactant | 4-(2',3'-dichloro-4-biphenylyl)-4-oxo-butyric acid | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12Cl2O3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(2',3'-Dichloro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 75% | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H14Cl2O3
